US04102864
PREPARATION OF POLY(1,2-BIS(4-HYDROXYPHENYL)ETHANE ISOPHTHALATE
A charge consisting of 8.2 parts of isophthalic acid and 14.8 parts of 1,2-bis(4-acetoxyphenyl)ethane is placed in a reaction vessel equipped with a stirrer, condenser and receiver. The vessel is evacuated and purged with nitrogen three times. A nitrogen blanket is maintained in the reactor while it is heated to 250° C. for about three hours during which period approximately 3.5 to 4.0 parts of acetic acid distills. Thereupon the vessel is evacuated to a pressure of about 125 mm. and heating at 275° C. is continued for one half hour during which period an additional 1 to 1.5 parts of acetic acid distills. The vacuum is then increased to reduce the pressure to about 0.1 to 0.2 mm. and the temperature is raised to 290° C. for an additional hour. At this point the reaction mixture becomes so viscous that further stirring is difficult. Heating is stopped, the reaction mixture is again blanketed with nitrogen and allowed to cool. The resultant polymer is light yellow in color, crystalline and demonstrates an inherent viscosity of 0.57 in the phenol-tetrachloroethane solvent.

reactant | isophthalic acid | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | 1,2-bis(4-acetoxyphenyl)ethane | C(C)(=O)OC1=CC=C(C=C1)CCC1=CC=C(C=C1)OC(C)=O | C18H18O4
product | 1,2-BIS(4-HYDROXYPHENYL)ETHANE ISOPHTHALATE | C(C1=CC(C(=O)O)=CC=C1)(=O)O.OC1=CC=C(C=C1)CCC1=CC=C(C=C1)O | InChI=1S/C14H14O2.C8H6O4/c15-13-7-3-11(4-8-13)1-2-12-5-9-14(16)10-6-12;9-7(10)5-2-1-3-6(4-5)8(11)12/h3-10,15-16H,1-2H2;1-4H,(H,9,10)(H,11,12)
